US08217031B2
6-Ethoxycarbonyl-2-methyl-5,6,7,8-tetrahydrofuro[2,3-d]azepin-4-one
[Ethoxycarbonyl[2-(5-methylfuran-2-yl)ethyl]amino]-acetic acid (0.17 g) prepared in the step 5 was dissolved in 3.5 mL of methylene chloride, then 0.12 g of thionyl chloride and 1 drop of DMF were added thereto and the mixture was heated to reflux for 2 hours. After the reaction solution was cooled, it was diluted with 5 mL of methylene chloride, then 0.18 g of aluminum chloride was added thereto and the mixture was heated to reflux again for 30 minutes. After the reaction solution was cooled, it was poured over 50 mL of ice water, the organic layer was separated, washed with water and a saturated solution of sodium chloride successively and dried over anhydrous magnesium sulfate and the solvent was evaporated therefrom in vacuo. The residue was purified by silica gel column chromatography to give 0.07 g of the objective compound as yellow liquid.

reactant | [Ethoxycarbonyl[2-(5-methylfuran-2-yl)ethyl]amino]-acetic acid | 0.17 g | C(C)OC(=O)N(CCC=1OC(=CC1)C)CC(=O)O | C12H17NO5
reactant | thionyl chloride | 0.12 g | S(=O)(Cl)Cl | Cl2OS
reactant | aluminum chloride | 0.18 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | methylene chloride | 3.5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 6-Ethoxycarbonyl-2-methyl-5,6,7,8-tetrahydrofuro[2,3-d]azepin-4-one | 0.07 g | C(C)OC(=O)N1CCC2=C(C(C1)=O)C=C(O2)C | C12H15NO4
